Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / ACE Inhibitors / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___
 
Chief Complaint:
SOB, BRPBR
 
Major Surgical or Invasive Procedure:
EGD ___
Colonoscopy ___

 
History of Present Illness:
___ past medical history of hypertension, hyperlipidemia, NIDDM
presenting to the emergency department with shortness of breath
and 1 month history of bright red blood per rectum. 

Per ED, patient has had 1 month of intermittent bright red 
blood,
maroon, burgundy blood per rectum with episodes of diarrhea
greater than ___ per day. Patient denies any fevers, chills,
chest pain, abdominal pain, nausea, vomiting, constipation.
Patient does endorse shortness of breath with exertion. Patient
states that has not happened before, denies any history of
ulcers, reflux, liver disease.

Per ED exam, mild conjunctival pallor.  

Nursing states he has been having black, tarry stools x ___
weeks. Now BRBPR with DOE and dizziness. Seen at PCP with ___ of
25. 

I reviewed VS, labs, orders, imaging, old records, meds.

___ RR 20.

___ 07:45PM BLOOD WBC: 8.7 Hgb: 7.6* MCV: 99* NRBC: 1.5* 
___ 07:45PM BLOOD Glucose: 209* Creat: 0.9 
___ 10:04PM URINE CaOxalX: RARE* Protein: TR* Glucose: 150* 

___ 10:04 pm URINE
  
   URINE CULTURE (Pending): 

Per ED, GI will put in recs in AM; agree w/ PPI and xfusion; 
they
plan to do upper/lower endoscopy s/p re-eval in AM.  Per ED, had
heme negative brown stool in ED.  

Getting 1 unit pRBC, s/p 
 
___ 21:02 IVF  NS  ___ Started  
___ 21:02 IV Pantoprazole 40 mg ___  
___ 22:12 IVF  NS 1000 mL ___ Stopped (1h 
___

EKG reviewed
Sinus rhythm HR 67

Type and screen done.

I reviewed w/ patient who notes DOE x ___ weeks a/w BRBPR; he
states that the bleeding is on and off, sometimes with red 
stool,
sometimes with brown stool.  Denies significant recent weight
loss.  Had a night sweat last night only.  Dnies nausea,a
vomiting, fever, chills.  

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. Full 10 pt ros
completed.

 
Past Medical History:
POSITIVE PPD 
DRUG ALLERGY 
ORTHOPEDIC 
HERNIA 
? GLAUCOMA 
SKIN TAG 
 Multiple ankle injuries and shoulder pain. 
T2DM
HTN
 
Social History:
___
Family History:
Family hx cancer
sister with unknown cancer
uncle with colon cancer in ___
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
unchanged
 
Pertinent Results:
ADMISSION LABS:

___ 07:45PM BLOOD WBC-8.7 RBC-2.44* Hgb-7.6* Hct-24.1* 
MCV-99* MCH-31.1 MCHC-31.5* RDW-15.0 RDWSD-51.5* Plt ___
___ 07:35AM BLOOD WBC-5.9 RBC-2.22* Hgb-6.9* Hct-21.2* 
MCV-96 MCH-31.1 MCHC-32.5 RDW-15.3 RDWSD-49.9* Plt ___
___ 07:45PM BLOOD Glucose-209* UreaN-9 Creat-0.9 Na-138 
K-4.0 Cl-99 HCO3-26 AnGap-13

DISCHARGE LABS:

___ 07:50AM BLOOD WBC-5.6 RBC-2.66* Hgb-8.2* Hct-25.3* 
MCV-95 MCH-30.8 MCHC-32.4 RDW-15.4 RDWSD-53.3* Plt ___
___ 07:50AM BLOOD Glucose-183* UreaN-7 Creat-0.9 Na-144 
K-4.1 Cl-107 HCO3-23 AnGap-14

PERTINENT STUDIES:

EGD ___:
Normal mucosa in the whole esophagus
Normal mucosa in the stomach
Erosion in the incisura of the stomach
Normal mucosa in the whole duodenum
Otherwise normal EGD to third part of the duodenum

COLONOSCOPY ___:
Impression:
Normal mucosa in the whole colon
Diverticulosis of the ascending colon, transverse colon, 
descending colon and sigmoid colon
Internal hemorrhoids
Otherwise normal colonoscopy to cecum
Recommendations:
Hemorrhoids and diverticula most likely sources of bleeding
Inadequate prep for screening - small to medium sized lesions 
may have been missed
Can repeat colonoscopy with 2 day prep as outpatient within 6 
months and with MAC sedation
 
Brief Hospital Course:
___ y/o man with FH of colon CA, PMH of HTN, DM admitted with 
subacute GIB x 1 month with dark stools, hematochezia and BRBPR, 
along with symptoms of SOB, DOE, and presyncope

Acute issues:
# Acute blood loss anemia - found to have a low Hgb of 7 (nadir 
6.9) and required 3 units of blood on ___ to stabilize and 
increase his hemoglobin back to >7. His discharge hemoglobin is 
8.2 and will need ongoing check-ins to ensure it improves with 
time.
# GI bleed - symptoms were concerning for both upper and/or 
lower source. He underwent an EGD on ___ which showed erosions 
in the incisura of the stomach, but no active bleeding. Daily 
PPI for 6 weeks is recommended. He underwent a colonoscopy which 
demonstrated numerous diverticula throughout the colon and 
internal hemorrhoids, both which were likely the course of 
bleeding but NOT actively bleeding. If his hemoglobin does not 
improve, further investigation should be considered (capsule, 
etc). He was not adequately prepped, so will need a repeat 
colonoscopy in ___ months for screening purposes and with MAC 
anesthesia and 2-day prep. 

Chronic issues:
# HTN - held his anti-HTN in house due to active bleeding, 
restarted day before discharge
# DM - held metformin in house, covered with SS, restarted 
metformin on d/c

Transitional issues:
- check hemoglobin at PCP visit to ensure stability and slow 
improvement
- ensure patient has screening colonoscopy in ___ months with 
MAC and 2 day prep (our GI office is trying to arrange)
- GI referral if hemoglobin does not improve
- new medication: omeprazole daily for 6 weeks

>30 minutes spent on discharge related activities. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Fenofibrate 200 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Metoprolol Tartrate 25 mg PO BID 
5. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg one capsule(s) by mouth daily Disp #*45 
Capsule Refills:*1 
2.  amLODIPine 10 mg PO DAILY  
3.  Fenofibrate 200 mg PO DAILY  
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  MetFORMIN (Glucophage) 1000 mg PO BID  
6.  Metoprolol Tartrate 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI bleed, presumed lower from diverticula
Acute blood loss anemia
HTN
DM
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Why was I in the hospital? 
- You came in feeling weak and short of breath
- this was from the bleeding in the stool and low blood counts

What was done when I was in the hospital?
- you received blood
- you had an endoscopy and colonoscopy, which demonstrated no 
active bleeding but possible causes for the bleeding
- your blood counts were monitored and stayed stable after you 
got the extra blood

What will I do when I go home?
- take Prilosec (Omeprazole) 40 mg daily for 6 weeks
- see your PCP as scheduled and have your blood count checked to 
make sure it is stable
- have a colonoscopy in ___ months to screen for any 
abnormalities (this colonoscopy could not see everything as you 
had stool in the bowel)
 
Followup Instructions:
___